US05252560
1,3-Dihydro-2H-pyrrolo[3,4-b]quinoline-1,3-dione
Quinoline-2,3-dicarboxylic acid (1.29 g) and urea (709 mg) were ground together and heated at 170° for 3 h. The cooled mass was treated with water (50 mL) and triturated. The resulting solid was filtered, washed with water, and air dried to give the title compound as a white solid (450 mg). M.p.>300°.

reactant | Quinoline-2,3-dicarboxylic acid | 1.29 g | N1=C(C(=CC2=CC=CC=C12)C(=O)O)C(=O)O | C11H7NO4
reactant | urea | 709 mg | NC(=O)N | CH4N2O
solvent | water | 50 mL | O | H2O
product | 1,3-Dihydro-2H-pyrrolo[3,4-b]quinoline-1,3-dione | 450 mg | C1(NC(C2=NC=3C=CC=CC3C=C21)=O)=O | C11H6N2O2
